US07557105B2
Step 1.3: {2-[(2-Propenyloxy)-methyl]-5-nitrophenyl}-guanidine
Nitric acid (1.04 mL of 65%, 15 mmol) is added to a stirred solution of 2-[(2-propenyloxy)-methyl]-5-nitrobenzenamine (3.15 g, 15 mmol) in ethanol (30 mL) at 200C. A solution of cyanamide (0.95 g, 22.5 mmol) in water (1 mL) is then added dropwise to the stirred mixture at 95° C. over a period of 60 min. The mixture is heated at 95° C. for 14 h, with additional aliquots of cyanamide (total 2.2 g, 58 mmol) being added throughout this period and with the acidity being periodically adjusted to pH 3 by the addition of nitric acid (65%). The resulting mixture is cooled to 0° C., basified with aqueous ammonia (5 mL of 25%), diluted with water (150 mL) and extracted with ethyl acetate (3×100 mL). The combined extracts are washed with saturated aqueous ammonium chloride (50 mL), dried (MgSO4), filtered and the solvent is evaporated off under reduced pressure to give the title compound as a brown oil, which is used directly in the next step without further purification.

reactant | Nitric acid | 15 mmol, 1.04 mL | [N+](=O)(O)[O-] | HNO3
reactant | 2-[(2-propenyloxy)-methyl]-5-nitrobenzenamine | 15 mmol, 3.15 g | C(C=C)OCC1=C(C=C(C=C1)[N+](=O)[O-])N | C10H12N2O3
reactant | cyanamide | 22.5 mmol, 0.95 g | N#CN | CH2N2
reactant | cyanamide | 58 mmol, 2.2 g | N#CN | CH2N2
reactant | ammonia | 5 mL | N | H3N
solvent | ethanol | 30 mL | C(C)O | C2H6O
solvent | water | 1 mL | O | H2O
solvent | water | 150 mL | O | H2O
product | {2-[(2-Propenyloxy)-methyl]-5-nitrophenyl}-guanidine | C(C=C)OCC1=C(C=C(C=C1)[N+](=O)[O-])NC(=N)N | C11H14N4O3
